US07115607B2
tert-Butyl 3-{N-[(1R)-2-(4-{2-[(dimethylamino)methyl]phenyl}piperazinyl)-1-[(4-chlorophenyl)methyl]-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydroisoquinoline-2-carboxylate was prepared according to the procedure described in Preparation V, (2R)-2-amino-1-(4-{2-[(dimethylamino)methyl]phenyl}piperazinyl)-3-(4-chlorophenyl)propan-1-one (0.34 g, 0.85 mmol), Boc-L-Tic-OH (Peptech Corp.) (0.26 g, 0.93 mmol), EDC (0.2 g, 1.0 mmol), HOBT (used in place of HOAT) (Bachem) (0.14 g, 0.93 mmol) and CH2Cl2 (4 mL). The crude compound was purified on a Biotage 40S column (CH2Cl2/MeOH 95:5) to give tert-butyl 3-{N-[(1R)-2-(4-{2-[(dimethylamino)methyl]phenyl}piperazinyl)-1-[(4-chlorophenyl)methyl]-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydro-isoquinoline-2-carboxylate as a white foam (0.32 g). MS m/z: 660 (M+H). Calc'd for C37H46ClN5O4: 660.25.

reactant | (2R)-2-amino-1-(4-{2-[(dimethylamino)methyl]phenyl}piperazinyl)-3-(4-chlorophenyl)propan-1-one | 0.85 mmol, 0.34 g | N[C@@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)CN(C)C)CC1=CC=C(C=C1)Cl | C22H29ClN4O
reactant | Boc-L-Tic-OH | 0.93 mmol, 0.26 g | N1([C@@H](CC2=CC=CC=C2C1)C(=O)O)C(=O)OC(C)(C)C | C15H19NO4
reactant | EDC | 1.0 mmol, 0.2 g
reactant | HOBT | 0.93 mmol, 0.14 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-{N-[(1R)-2-(4-{2-[(dimethylamino)methyl]phenyl}piperazinyl)-1-[(4-chlorophenyl)methyl]-2-oxoethyl]carbamoyl}(3S)-1,2,3,4-tetrahydro-isoquinoline-2-carboxylate | 0.32 g | CN(C)CC1=C(C=CC=C1)N1CCN(CC1)C([C@@H](CC1=CC=C(C=C1)Cl)NC(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OC(C)(C)C)=O | C37H46ClN5O4
